US07071201B2
Example 84: Synthesis of cis-1-[1-ethyl-3-(4-fluorophenoxymethyl)piperidin-4-yl]indoline
Under a nitrogen gas stream, 4-fluorophenol (168 mg) and triphenyiphosphine (420 mg) were added to a solution of cis-1-(1-ethyl-3-hydroxymethylpiperidin-4-yl)indoline (300 mg) in tetrahydrofuran (4 ml). After cooling the resultant mixture to −10° C., diethyl azodicarboxylate (278 mg) was gradually added dropwise thereinto. Then the resultant mixture was gradually warmed to room temperature and stirred at the same temperature overnight. After adding water (40 ml), the reaction mixture was extracted with ether (40 ml) for three times. The organic phase was washed successively with a saturated aqueous solution (40 ml) of sodium bicarbonate and a 1 N aqueous solution (40 ml) of sodium hydroxide, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (Fuji Silysia Chemical Ltd. NH-DM2035, hexane/ethyl acetate system) to give the title compound (100 mg) as a colorless oil (yield: 25%).

reactant | 4-fluorophenol | 168 mg | FC1=CC=C(C=C1)O | C6H5FO
reactant | triphenyiphosphine | 420 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | cis-1-(1-ethyl-3-hydroxymethylpiperidin-4-yl)indoline | 300 mg | C(C)N1C[C@H]([C@H](CC1)N1CCC2=CC=CC=C12)CO | C16H24N2O
reactant | diethyl azodicarboxylate | 278 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | water | 40 ml | O | H2O
product | cis-1-[1-ethyl-3-(4-fluorophenoxymethyl)piperidin-4-yl]indoline | 100 mg, yield: 25% | C(C)N1C[C@H]([C@H](CC1)N1CCC2=CC=CC=C12)COC1=CC=C(C=C1)F | C22H27FN2O
